US07741321B2
X. 1-(Benzo[d][1,3]dioxol-6-yl)-N-(6-bromopyridin-2-yl)cyclopropane-carboxamide (B-2)
(1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid (1.2 g, 5.8 mmol) was placed in an oven-dried flask under nitrogen. Thionyl chloride (2.5 mL) and N,N-dimethylformamide (0.3 mL) were added and the solution was allowed to stir at 60° C. for 30 minutes. The excess thionyl chloride was removed under vacuum and the resulting solid was suspended in 5 mL of anhydrous pyridine. This solution was then slowly added to a solution of 6-bromopyridin-2-amine (1.0 g, 5.8 mmol) suspended in 10 mL of anhydrous pyridine. The resulting mixture was allowed to stir for 15 hours at 110° C. The mixture was then evaporated to dryness, suspended in 50 mL of dichloromethane, and washed with three 20 mL portions of 1N NaOH. The organic layer was dried over sodium sulfate, evaporated to near dryness, and then purified by silica gel column chromatography utilizing dichloromethane containing 2.5% triethylamine as the eluent to yield the pure product. ESI-MS m/z calc. 361.2. found 362.1 (M+1)+; Retention time 3.43 minutes. 1H NMR (400 MHz, DMSO-d6) δ 1.10-1.17 (m, 2H), 1.42-1.55 (m, 2H), 6.06 (s, 2H), 6.92-7.02 (m, 2H), 7.09 (d, J=1.6 Hz, 1H), 7.33 (d, J=7.6 Hz, 1H), 7.73 (t, J=8.0 Hz, 1H), 8.04 (d, J=8.2 Hz, 1H), 8.78 (s, 1H).

reactant | 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid | 5.8 mmol, 1.2 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | Thionyl chloride | 2.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
reactant | 6-bromopyridin-2-amine | 5.8 mmol, 1.0 g | BrC1=CC=CC(=N1)N | C5H5BrN2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-(Benzo[d][1,3]dioxol-6-yl)-N-(6-bromopyridin-2-yl)cyclopropane-carboxamide | O1COC2=C1C=C(C=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)Br | C16H13BrN2O3
